US06570018B2
(1S,2S)-1-(4-benzyloxyphenyl)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-1-propanol
Over 20 minutes, (2S)-1-(4-benzyloxyphenyl)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-1-propanone (75 g, 0.18 mol) was added to a suspension of lithium borohydride (3.15 g, 0.15 mol) in ethanol (0.75 L) maintained under a nitrogen atmosphere at 20 to 25° C. After stirring for about 5 minutes, a mild exotherm occurred raising the temperature to 27° C. The slurry was stirred for 42 hours at 20 to 25° C. when HPLC indicated that the reaction was complete. Water (37.5 mL) was added and the slurry was granulated for 1 hour at 20 to 25° C. The white solid was filtered and then washed with ethanol (75 mL), water (150 mL), and finally ethanol (75 mL). The product was dried in vacuo at 40 to 45° C. for 20 hours to give 65.3 g of the title compound. The (1S,2S) amino alcohol product was obtained in 78.3% yield and contained only 2.3% of diastereomers. M.p. 158-161° C., [α]D25+38.7 (c 6.1, CH3OH)

reactant | (2S)-1-(4-benzyloxyphenyl)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-1-propanone | 0.18 mol, 75 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C([C@H](C)N1CCC(CC1)(C1=CC=CC=C1)O)=O | C27H29NO3
reactant | lithium borohydride | 0.15 mol, 3.15 g | [BH4-].[Li+]
reactant | Water | 37.5 mL | O | H2O
solvent | ethanol | 0.75 L | C(C)O | C2H6O
product | (1S,2S)-1-(4-benzyloxyphenyl)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-1-propanol | 65.3 g, 78.3% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]([C@H](C)N1CCC(CC1)(C1=CC=CC=C1)O)O | C27H31NO3
